US06313312B1
Ethyl 2-(bromomethyl)-3-phenylcyclopropanecarboxylate
To a solution of [(E)-3-bromo-1-propenyl]benzene (705 mg, 3.58 mmol) in dichloromethane (1 ml) was added rhodium (II) acetate dimer (20 mg, 0.05 mmol). To the mixture was added dropwise at room temperature over 4 h a solution of ethyl diazoacetate (0.43 ml, 0.47 g, 4.15 mmol) in dichloromethane (2.5 ml). The mixture was stirred at room temperature for 60 h. The mixture was purified by silica column (40 g) chromatography eluting with 1:1 hexane:dichloromethane then dichloromethane. Product-containing fractions were purified further by silica column (10 g) chromatography eluting with 9:1 hexane:dichloromethane then dichloromethane. Product-containing fractions were combined and concentrated in vacuo to give the title compound as a colourless oil (75 mg, 8%).

reactant | [(E)-3-bromo-1-propenyl]benzene | 3.58 mmol, 705 mg | BrC/C=C/C1=CC=CC=C1 | C9H9Br
reactant | ethyl diazoacetate | 4.15 mmol, 0.43 ml, 0.47 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
catalyst | rhodium (II) acetate dimer | 0.05 mmol, 20 mg | CC(=O)O.CC(=O)O.CC(=O)O.CC(=O)O.[Rh].[Rh]
product | Ethyl 2-(bromomethyl)-3-phenylcyclopropanecarboxylate | 75 mg, 8% | BrCC1C(C1C1=CC=CC=C1)C(=O)OCC | C13H15BrO2
